US04335127
To a stirred mixture of 2.6 parts of 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,4-(1H,3H)-quinazolinedione and 120 parts of methanol are added portionwise 2 parts of sodium borohydride. Upon completion, stirring is continued overnight at room temperature. Water is added and the whole is evaporated. The residue is stirred in water. The solid product is filtered off and crystallized from 2-propanone, yielding 1.2 parts of 3-[2-[4-[(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]ethyl]-2,4(1H,3H)-quinazolinedione; mp. 212.8° C.

reactant | 3-[2-[4-(4-fluorobenzoyl)-1-piperidinyl]ethyl]-2,4-(1H,3H)-quinazolinedione | FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(NC3=CC=CC=C3C2=O)=O)C=C1 | C22H22FN3O3
reactant | methanol | CO | CH4O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | Water | O | H2O
product | 3-[2-[4-[(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]ethyl]-2,4(1H,3H)-quinazolinedione | FC1=CC=C(C=C1)C(C1CCN(CC1)CCN1C(NC2=CC=CC=C2C1=O)=O)O | C22H24FN3O3
